US07459448B2
9-Chloro-2-(3-hydroxy-4-methoxy-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-65)
In a manner similar to that described for method I, 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-j) and N-(3-hydroxy-4-methoxy-phenyl)-guanidine nitrate were converted to I-65 (69%): HRMS Calcd. for C19H15ClN4O3: 383.091, Found 383.0913.

reactant | 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | ClC=1C=CC2=C(NC(CC(C2=O)=CN(C)C)=O)C1 | C13H13ClN2O2
reactant | N-(3-hydroxy-4-methoxy-phenyl)-guanidine nitrate | [N+](=O)(O)[O-].OC=1C=C(C=CC1OC)NC(=N)N
product | 9-Chloro-2-(3-hydroxy-4-methoxy-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | ClC=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC(=C(C=C3)OC)O)=O)C1 | C19H15ClN4O3
